US04940710
A 34.9 g portion of selenium dioxide was dissolved in a mixture of 85 ml of dioxane and 10 ml of water with stirring and heating to 55°-60° C. A 40 g portion of -acetyl-3-methylthiophene was added and the mixture was refluxed for 6 hours, then cooled, diluted with dioxane, filtered and evaporated to dryness. The residue was dissolved in ether and the crystals which formed collected, giving 12.03 g of 3-methyl-α-oxo-2-thiopheneacetaldehyde.

reactant | selenium dioxide | [Se](=O)=O | O2Se
reactant | acetyl-3-methylthiophene | C(C)(=O)C=1SC=CC1C | C7H8OS
solvent | dioxane | 85 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
product | 3-methyl-α-oxo-2-thiopheneacetaldehyde | 12.03 g | CC1=C(SC=C1)C(C=O)=O | C7H6O2S
